US08957069B2
1-(1-methyl-1H-pyrazole-3-yl)-4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using N,N-bis(2-chloroethyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine (660 mg, 2.0 mmol) synthesized in Reference Example 146 and 1-methyl-1H-pyrazole-3-amine (291 mg, 3.0 mmol), the reaction was carried out in the same manner as Example 117 to obtain 341 mg of the title compound as a colorless solid (yield 48%). Melting point was 147 to 149° C. (ethanol-water).

reactant | N,N-bis(2-chloroethyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine | 2.0 mmol, 660 mg | ClCCN(C=1C(=C(C2=C(CC(O2)(C)C)C1C)C)C)CCCl | C17H25Cl2NO
reactant | 1-methyl-1H-pyrazole-3-amine | 3.0 mmol, 291 mg | CN1N=C(C=C1)N | C4H7N3
product | 1-(1-methyl-1H-pyrazole-3-yl)-4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 341 mg, yield 48% | CN1N=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)(C)C)C1C)C)C | C21H30N4O
